US07605136B2
(2S,3S,4S,5R,6S)-3,4,5-Tris-(tert-butyl-dimethyl-silanyloxy)-6-(2-[1,3]dioxolan-2-yl-4-nitro-phenoxy)-tetrahydro-pyran-2-carboxylic acid
The solution of 5.64 g (7.58 mmol) of the compound, presented according to Example LE3d, in 150 ml of allyl alcohol is mixed with 9.1 ml of a 1 M solution of sodium allyl alcoholate in allyl alcohol, and it is stirred for 2.5 hours at 50° C. It is concentrated by evaporation, mixed with water, extracted several times with dichloromethane, the combined organic extracts are washed with saturated sodium chloride solution and dried on magnesium sulfate. The residue that is obtained after filtration and removal of the solvent is purified by chromatography on fine silica gel, and 1.78 g (2.44 mmol, 32%) of the title compound as well as 1.87 g (2.43 mmol, 32%) of (2R,3S,4S,5R,6S)-3,4,5-tris-(tert-butyl-dimethyl-silanyloxy)-6-(2-[1,3]dioxolan-2-yl-4-nitro-phenoxy)-tetrahydro-pyran-2-carboxylic acid allyl ester are isolated.

reactant | sodium allyl alcoholate | C(C=C)[O-].[Na+]
reactant | (2R,3S,4S,5R,6S)-3,4,5-tris-(tert-butyl-dimethyl-silanyloxy)-6-(2-[1,3]dioxolan-2-yl-4-nitro-phenoxy)-tetrahydro-pyran-2-carboxylic acid allyl ester | 2.43 mmol, 1.87 g | C(C=C)OC(=O)[C@@H]1O[C@H]([C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)OC1=C(C=C(C=C1)[N+](=O)[O-])C1OCCO1 | C36H63NO11Si3
solvent | allyl alcohol | 150 ml | C(C=C)O | C3H6O
product | (2S,3S,4S,5R,6S)-3,4,5-Tris-(tert-butyl-dimethyl-silanyloxy)-6-(2-[1,3]dioxolan-2-yl-4-nitro-phenoxy)-tetrahydro-pyran-2-carboxylic acid | 2.44 mmol, 1.78 g, 32% | C(C)(C)(C)[Si](O[C@H]1[C@H](O[C@H]([C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)OC1=C(C=C(C=C1)[N+](=O)[O-])C1OCCO1)C(=O)O)(C)C | C33H59NO11Si3
